.param P_Distortion = 0.5
.param P_Tone = 0.5
.param P_Volume = 0.5
.include "/workspace/SPICEyPedals/tools/../PartModels/1N914.LIB"
* generated from Pro Co Rat.schx
VCC VCC 0 DC 9
VIN IN 0 SIN(0 50m 500)
CC4 N3 N4 47u
RR5 N4 N5 1k
CC1 N2 N3 100p
CC2 N9 0 4.7u
CC3 N8 0 2.2u
RR2 N2 N9 560
RR3 N7 N8 47
RR6 N12 N13 1.5k
CC5 N13 0 3.3n
DD1 N5 0 1N914
DD2 N5 0 1N914
CC6 N15 N17 22n
RR1 0 N17 1meg
RR7 0 IN 1meg
CC8 N22 IN 22n
RR8 N23 VB 1meg
RR9 N21 N22 1k
CC9 0 N21 1n
CC7 N30 N31 1u
RS1 N33 0 8
RDistortion N3 N7 {100k * P_Distortion}
RTone N5 N12 {100k * P_Tone}
RVolumeA N31 0 {100k * (1-P_Volume)}
RVolumeB 0 N33 {100k * P_Volume}
.tran 2u 100m 80m
.op
.control
  run
  quit
.endc
.end
